US06660751B1
Toluene-3-sulfonic Acid 2-(Methyl-(toluene-3-sulfonyl)-amino)-ethyl Ester (D1)
To a solution of 2-methylaminoethanol (1.0 g, 13 mmol) and diisopropylethylamine (5.8 ml, 33 mmol) in dichloromethane (50 ml) at room temperature was added 3-methylphenylsulfonyl chloride (5.6 g, 29 mmol). The solution was heated to reflux under argon for 12 hours then cooled and partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography to afford the title compound (2.5 g, 50%).

reactant | 2-methylaminoethanol | 13 mmol, 1.0 g | CNCCO | C3H9NO
reactant | diisopropylethylamine | 33 mmol, 5.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-methylphenylsulfonyl chloride | 29 mmol, 5.6 g | CC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Toluene-3-sulfonic Acid 2-(Methyl-(toluene-3-sulfonyl)-amino)-ethyl Ester | 2.5 g, 50% | CN(CCOS(=O)(=O)C=1C=C(C=CC1)C)S(=O)(=O)C=1C=C(C=CC1)C | C17H21NO5S2
